Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ___
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dyspnea 
 
Major Surgical or Invasive Procedure:
Arthrocentesis of R knee
 
History of Present Illness:
___ with no PMH  presented to the ED on ___ with sore throat,
myalgias, HA, cough, high fevers at home, no flu checked in ED.
The patient was thought to have bacterial PNA superimposed with
bibasilar opacities on CXR; staretd on Levaquin, and sent home.
Came back on ___, febrile, tachy to 114, tachypneic to 28,
hypoxic to 88% on RA. CXR showed diffuse bilateral infiltrates 
in
the LLL, LUL, RML, RUL; started on CTX and azithro, stopped
Levaquin. The patient's oxygen requirements increased to 5L, and
vanc was started. The patient was positive for flu A and had
deferred flu shot. Origional ABG was ___ on ventimask 
50%,
tahcypneic to ___, and transferred to MICU. The patient became
more tahcypniec around 1500 with ___, and the patient was
intubated around 1800. The patient became dyssynchoronous 
despite
versed, fent and prop. He was then paralyzed. Oxygenation
improved with paralysis to 96% from 70-80, FiO2 100% PEEP 12;
increased PEEP to 16 VT 450, RR 20, SpO2 95% with an ABG
7.24/53/152/22.  The patient was never proned but was treated
with Tamiflu, vanc, CTX, azithro. 

Upon arrival to the ICU, patient was intubated and sedated 

 
Past Medical History:
none 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
GENERAL: well-nourished man resting in bed in NAD. 
HEENT: PERRL, OP clear
CARDIAC: RRR no m/r/g
PULMONARY: breathing is non-labored. Good air entry with rales
LLL and RLL
ABDOMEN: soft non-tender 
EXTREMITIES: Right knee with palpable mild effusion, No longer 
warm, no erythema. Very mild
tenderness to palpation. Patient able to flex knee without
eliciting significant pain. 
NEURO: alert and oriented, face symmetric, moving all
extremities. 

 
Pertinent Results:
ADMISSION LABS
=====================
___ 12:11AM BLOOD WBC-3.5* RBC-3.83* Hgb-10.7* Hct-33.0* 
MCV-86 MCH-27.9 MCHC-32.4 RDW-14.8 RDWSD-46.9* Plt ___
___ 12:11AM BLOOD Neuts-74.8* Lymphs-17.5* Monos-6.6 
Eos-0.0* Baso-0.0 Im ___ AbsNeut-2.61 AbsLymp-0.61* 
AbsMono-0.23 AbsEos-0.00* AbsBaso-0.00*
___ 12:11AM BLOOD ___ PTT-21.0* ___
___ 12:11AM BLOOD Glucose-137* UreaN-11 Creat-1.0 Na-141 
K-4.8 Cl-106 HCO3-21* AnGap-14
___ 12:11AM BLOOD ALT-71* AST-87* AlkPhos-54 TotBili-0.6
___ 06:02PM BLOOD HIV Ab-NEG

MICROBIOLOGY
======================

RELEVANT STUDIES
======================
___ RUQ U/S: 
1. No signs acute cholecystitis. 
2. Echogenic liver consistent with steatosis. Other forms of 
liver disease 
including steatohepatitis, hepatic fibrosis, or cirrhosis cannot 
be excluded on the basis of this examination. 
3. Mild splenomegaly. 
4. Small bilateral pleural effusions.

___ CT HEAD W/O CONTRAST:
1. No evidence of an acute intracranial abnormality. 
2. Small air-fluid level in the sphenoid sinus raising the 
possibility of 
developing sinusitis. 

DISCHARGE LABS
====================== 

___ 07:05AM BLOOD WBC-5.3 RBC-3.84* Hgb-10.6* Hct-32.2* 
MCV-84 MCH-27.6 MCHC-32.9 RDW-13.4 RDWSD-41.1 Plt ___
___ 07:05AM BLOOD Glucose-115* UreaN-18 Creat-0.6 Na-144 
K-4.0 Cl-107 HCO3-25 AnGap-12
___ 07:05AM BLOOD Mg-2.3 UricAcd-5.7
___ 05:10PM BLOOD ___ CRP-64.1*
___ 05:10PM BLOOD HIV Ab-NEG

ESR: ___ year old male with no significant past medical history
presents to the ICU as a transfer from OSH with acute 
respiratory
failure secondary to influenza complicated by ARDS, and new R
knee effusion likely inflammatory

#Acute Hypoxemic Respiratory Failure; ARDS
#Flu A positive 
Positive flu swab at OSH with fevers, respiratory symptoms and
bilateral hazy opacities on CXR and flu A positive. P/F ratio 
150
at lowest consistent with ARDS requiring paralysis and lung
protective ventilation strategy. Patient self extubated on ___
as been stable on NC since that time, currently 4L. On Tamiflu
with low suspicion for superimposed bacterial process at this
time. Patient without significant volume overload on exam but 
has
been receiving diuresis in ICU given pulmonary edema (due to
capillary leak in setting of ARDS). Currently off o2, doing very 
well, no need for diuresis.

- continue oseltamivir 75mg BID (day 1 = ___ to complete 7d
- defer antibiotics at this time 

#Right knee effusion
Pain with ambulation and moderate effusion of right knee. No
prior trauma. Effusion is tapped, no crystals, 4k wbc very
unlikely to be septic. Uric acid only in the 5s so unlikely gout
flair. Lyme vs GC comes to mind. Lyme titers sent, will get
GC/chlam tesing, cultures pending. ESR/CRP high, may be hinting 
at inflammatory arthritis.
Knee pain improved after tap. Patient freely ambulatory. Would 
defer further workup to outpatient.
- continue ibuprofen q8h prn
- trial ice pack/hot packs
- ___ culture pending

CHRONIC ISSUES
=============
#Elevated Transaminases - resolved
Low suspicion for shock liver as he has been largely 
normotensive
despite transient pressor requirement. Suspect due to viral
illness. 
-trend LFT's until improving

BUNDLE: 
========
#FEN: Regular diet, No IVF, replete lytes prn 
#ACCESS: 4 PIV, RIJ now removed    
#DVT ppx: SQH  
#CODE STATUS: FULL 
#CONTACT: Wife ___, ___
#DISPO: home

___, MD
___ of Hospital ___ 
___ 
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 600 mg 1 tablet(s) by mouth three times a day Disp 
#*60 Tablet Refills:*0 
2.  OSELTAMivir 75 mg PO BID 
RX *oseltamivir 75 mg 1 capsule(s) by mouth twice a day Disp #*4 
Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Influenza
R knee effusion
 
Discharge Condition:
good, ambulatory without assist
 
Discharge Instructions:
Mr. ___,
You were admitted to the hospital due to respiratory failure. 
You were found to have a severe influenza infection and was 
treated with Tamiflu. Please continue to take Tamiflu for 2 more 
days to complete a total of 7 days given how severe you flu was.
Your right knee became swollen, and our orthopedic surgeon took 
out some fluids. It did not show evidence of bacterial 
infection, or crystals to suggest gout. Your inflammatory 
markers are quite high, but that could be from your influenza. 
There are a few tests pending (lyme, gonococcal, ___, culture) 
for the knee. Please follow up with your primary care doctor 
within 1 week, and request records from ___. If any of those 
results comes back concerning, we will try to contact you and 
your PCP about them.
It was a pleasure taking care of you in ___!
 
Followup Instructions:
___